datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N+]1(CCCCCC(=O)[O:21][H:20])CCCCC1.OCC[NH+](CCc1nnn[nH]1)CCc1nnn[n-:10]1>>C[N+]1(CCCCCC(=O)[O-:21])CCCCC1.OCC[NH+](CCc1nnn[nH]1)CCc1nnn[n:10]1[H:20] 10=20;20,21=21",
"C[C:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)([N+](=O)[O-])[H:20].ClCC[O-:10]>>C[C-:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[N+](=O)[O-].ClCC[O:10][H:20] 10=20;20,21=21",
"CC(C)SC(c1ccccc1)=[NH:10].CC[N+:21](CC)(N(C)C)[H:20]>>CC(C)SC(c1ccccc1)=[NH+:10][H:20].CC[N:21](CC)N(C)C 10=20;20,21=21",
"CSc1cccc([NH2+:21][H:20])c1.NC(=O)c1c[n:10]cc2ccccc12>>CSc1cccc([NH2:21])c1.NC(=O)c1c[n+:10]([H:20])cc2ccccc12 10=20;20,21=21",
"C[n+]1ccccc1/C=N/[O-:10].Cn1c[n+:21]([H:20])cn1>>C[n+]1ccccc1/C=N/[O:10][H:20].Cn1c[n:21]cn1 10=20;20,21=21",
"CCS/C(c1cccc(C)c1)=[O+:21]\[H:20].Cc1cccc(C)c1[NH2:10]>>CCSC(c1cccc(C)c1)=[O:21].Cc1cccc(C)c1[NH2+:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)CC(C)=N[O-].Cc1cccc(C(=O)N(C)[O:21][H:20])c1>>CC[N+:10](CC)(CC(C)=N[O-])[H:20].Cc1cccc(C(=O)N(C)[O-:21])c1 10=20;20,21=21",
"Cc1cc[n:10]nc1.O=C(CCC(=O)[O:21][H:20])c1cccc2ccccc12>>Cc1cc[n+:10]([H:20])nc1.O=C(CCC(=O)[O-:21])c1cccc2ccccc12 10=20;20,21=21",
"[NH3+]c1ccc(-c2oc(-c3ccc(Cl)cc3)c[n+:21]2[H:20])cc1.c1[nH]c(Cc2c[n:10]c[nH]2)c[nH+]1>>[NH3+]c1ccc(-c2oc(-c3ccc(Cl)cc3)c[n:21]2)cc1.c1[nH]c(Cc2c[n+:10]([H:20])c[nH]2)c[nH+]1 10=20;20,21=21",
"C[Si](C)(C)CC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[Si](C)(C)CC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCNCC[NH:10]CCCC.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCCNCC[NH+:10](CCCC)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C=CC(C)(C)[N+:21](C)(C(C)(C)C)[H:20].Nc1ccc([O-:10])cc1[O-]>>C=CC(C)(C)[N:21](C)C(C)(C)C.Nc1ccc([O:10][H:20])cc1[O-] 10=20;20,21=21",
"CCSCC[NH2:10].O=[N+]([O-])c1ccc2[nH][n+:21]([H:20])cc2c1>>CCSCC[NH2+:10][H:20].O=[N+]([O-])c1ccc2[nH][n:21]cc2c1 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.C[C@@H]1C[NH:10][C@@H](C)CN1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.C[C@@H]1C[NH+:10]([H:20])[C@@H](C)CN1 10=20;20,21=21",
"CN(C)CCOCC[N+:21](C)(C)[H:20].Cc1ccc(C(=O)c2cc[n-:10]n2)cc1>>CN(C)CCOCC[N:21](C)C.Cc1ccc(C(=O)c2cc[n:10]([H:20])n2)cc1 10=20;20,21=21",
"BrCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>BrCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN1C(=O)c2c(nc([N+](=O)[O-])[n:21]2[H:20])N(C)C1=O.CN1c2ccc(OC(=O)[N-:10]C)cc2[C@@]2(C)CC[NH+](C)[C@@H]12>>CN1C(=O)c2c(nc([N+](=O)[O-])[n-:21]2)N(C)C1=O.CN1c2ccc(OC(=O)[N:10](C)[H:20])cc2[C@@]2(C)CC[NH+](C)[C@@H]12 10=20;20,21=21",
"CC(O)C[N:10](CCCN1CCOCC1)CC(C)O.O=C1Nc2cncnc2NC1=C1Nc2nc[n+:21]([H:20])cc2NC1=O>>CC(O)C[N+:10](CCCN1CCOCC1)(CC(C)O)[H:20].O=C1Nc2cncnc2NC1=C1Nc2nc[n:21]cc2NC1=O 10=20;20,21=21",
"CC(=O)NCC[NH2:10].CC(O)C[N+:21](CCO)(C(C)(C)C)[H:20]>>CC(=O)NCC[NH2+:10][H:20].CC(O)C[N:21](CCO)C(C)(C)C 10=20;20,21=21",
"CC(C)(C)c1cc([N+](=O)[O-])cc(C(C)(C)C)c1[O:21][H:20].Nc1c2ccccc2[nH+]c2cccc([O-:10])c12>>CC(C)(C)c1cc([N+](=O)[O-])cc(C(C)(C)C)c1[O-:21].Nc1c2ccccc2[nH+]c2cccc([O:10][H:20])c12 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])/C=C/C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])/C=C/C[NH2+:10][H:20] 10=20;20,21=21",
"CCCCc1c(C)nn(-c2ccccc2)c1[O-:10].Cc1cccc2ccc([O:21][H:20])cc12>>CCCCc1c(C)nn(-c2ccccc2)c1[O:10][H:20].Cc1cccc2ccc([O-:21])cc12 10=20;20,21=21",
"Oc1ccc(-c2ccc([O-:10])cc2)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1ccc(-c2ccc([O:10][H:20])cc2)cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1=CC(=C2C=CC=CC=C2)C=C(C)C1=[O+:21][H:20].CN[N:10](C)C>>CC1=CC(=C2C=CC=CC=C2)C=C(C)C1=[O:21].CN[N+:10](C)(C)[H:20] 10=20;20,21=21",
"c1cc([N:10]2CCCCC2)ccc1N1CCOCC1.c1n[nH]c[n+:21]1[H:20]>>c1cc([N+:10]2([H:20])CCCCC2)ccc1N1CCOCC1.c1n[nH]c[n:21]1 10=20;20,21=21",
"N#Cc1cc(-c2ccccc2)n[n:10]c1NCC[NH+]1CCOCC1.O=C1NC(C(=O)[O:21][H:20])CC1O>>N#Cc1cc(-c2ccccc2)n[n+:10]([H:20])c1NCC[NH+]1CCOCC1.O=C1NC(C(=O)[O-:21])CC1O 10=20;20,21=21",
"CC(=O)[N-:10]Br.Cc1cc([N+](=O)[O-])ccc1C(=O)[O:21][H:20]>>CC(=O)[N:10](Br)[H:20].Cc1cc([N+](=O)[O-])ccc1C(=O)[O-:21] 10=20;20,21=21",
"CC(C)[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C(Cl)C=C1)[H:20]>>CC(C)[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C(Cl)C=C1 10=20;20,21=21",
"COc1ccc2c(c1)CC[NH:10]2.Cc1cccc[n+:21]1[H:20]>>COc1ccc2c(c1)CC[NH+:10]2[H:20].Cc1cccc[n:21]1 10=20;20,21=21",
"CN(C(=O)c1ccccc1)[O-:10].COP(=O)([O-])[N:21](S(C)(=O)=O)[H:20]>>CN(C(=O)c1ccccc1)[O:10][H:20].COP(=O)([O-])[N-:21]S(C)(=O)=O 10=20;20,21=21",
"CC[NH2+]CC[NH+:21](CC)[H:20].O=P(O)(C([NH2+]Cc1ccc[nH+]c1)c1ccccc1O)[O-:10]>>CC[NH2+]CC[NH:21]CC.O=P(O)(C([NH2+]Cc1ccc[nH+]c1)c1ccccc1O)[O:10][H:20] 10=20;20,21=21",
"C[NH+](C)c1ccc(/C=C/c2cc[n:10]cc2)cc1.Cc1[nH]c(-c2ccccc2)[n+:21]([H:20])c1C>>C[NH+](C)c1ccc(/C=C/c2cc[n+:10]([H:20])cc2)cc1.Cc1[nH]c(-c2ccccc2)[n:21]c1C 10=20;20,21=21",
"C/C=C/c1ccc2cccnc2c1[O-:10].Oc1ccc(C[NH2+:21][H:20])cc1>>C/C=C/c1ccc2cccnc2c1[O:10][H:20].Oc1ccc(C[NH2:21])cc1 10=20;20,21=21",
